US06897210B2
Triethylamine (44 μl, 0.32 mmol) and then a solution of 2-bromoethyl methyl ether (40 mg, 0.29 mmol) in acetone (0.5 ml) was added dropwise to a solution of 4{4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methylaminoethoxy)quinazoline (100 mg, 0.26 mmol) in acetone (2.5 ml) heated at 50° C. under nitrogen. The mixture was stirred for 7 hours at 50° C., the mixture was allowed to cool and partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (92/8). The purified product was dissolved in methylene chloride, insolubles were removed by filtration and 2.2M ethereal hydrogen chloride (0.5 ml) was added to the filtrate. The volatiles were removed by evaporation and the residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)6-methoxy-7-(2-([N-(2-methoxyethyl)-N-methylamino)ethoxy)quinazoline hydrochloride (22 mg, 16%).

reactant | Triethylamine | 0.32 mmol, 44 μl | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethyl methyl ether | 0.29 mmol, 40 mg | COCCBr | C3H7BrO
reactant | 4{4-chloro-2-fluoroanilino)-6-methoxy-7-(2-methylaminoethoxy)quinazoline | 0.26 mmol, 100 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCNC)C=C1)F | C18H18ClFN4O2
reactant | acetone | 0.5 ml | CC(=O)C | C3H6O
reactant | acetone | 2.5 ml | CC(=O)C | C3H6O
product | 2-([N-(2-methoxyethyl)-N-methylamino)ethoxy)quinazoline hydrochloride | 22 mg, 16% | Cl.COCCN(C)CCOC1=NC2=CC=CC=C2C=N1 | InChI=1S/C14H19N3O2.ClH/c1-17(7-9-18-2)8-10-19-14-15-11-12-5-3-4-6-13(12)16-14;/h3-6,11H,7-10H2,1-2H3;1H
